US07659267B2
2-(4-Trifluoromethylphenyl)-4H-1,3-benzothiazin-4-one
A mixture of 4-trifluoromethylbenzonitrile (2.00 g, 12 mmol), methyl thiosalicylate (3.93 g, 23 mmol), triethylamine (2.40 g, 24 mmol) and toluene (10 ml) was heated and refluxed for 25 hours under a nitrogen flow. The reaction solution was concentrated under reduced pressure and the residue was applied to column chromatography using silica gel (100 g). Fractions eluted with hexane-ethyl acetate (5:1, v/v) were concentrated under reduced pressure. The residue was recrystallized from isopropyl ether to give the title compound (0.58 g, 16%) as crystals.

reactant | 4-trifluoromethylbenzonitrile | 12 mmol, 2.00 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | methyl thiosalicylate | 23 mmol, 3.93 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 24 mmol, 2.40 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Trifluoromethylphenyl)-4H-1,3-benzothiazin-4-one | 0.58 g, 16% | FC(C1=CC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2)(F)F | C15H8F3NOS
